US08022062B2
7-Propyl-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Cool a solution of 6-hydroxy-7-propyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (500 mg, 1.9 mmol), triethylamine (390 μL, 2.3 mmol) and DCM (20 mL) in a cryogenic bath set at −35° C. and add dropwise over 20 min trifluoromethanesulfonic anhydride (325 μL, 2.3 mmol). Stir at this temperature overnight. Wash the reaction mixture sequentially with water, 1N aqueous HCl, water, and brine. Dry the organic layer over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to obtain the title compound as an off-white waxy solid (550 mg, 75%). MS (ES+) m/z: 434 (M+H)+.

reactant | 6-hydroxy-7-propyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.9 mmol, 500 mg | OC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)CCC | C15H18F3NO2
reactant | triethylamine | 2.3 mmol, 390 μL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.3 mmol, 325 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-Propyl-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(CC)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C16H17F6NO4S
